US08258130B2
To a solution of 5-methyl-3H-1,3,4-oxadiazol-2-one (5.509 g, 55.0 mmol) in MeOH (40 mL) is added 25 wt % NaOMe solution in methanol (12.7 mL, 58.8 mmol). The mixture is stirred at rt for 15 min and then concentrated in vacuo. The residue is added to a solution of tetrabutylammonium bromide (0.358 g, 1.08 mmol) and chloro-acetone (4.6 ml, 54.9 mmol) in CHCl3 (33 mL), and the mixture is heated to reflux for 5 h under N2. The mixture is cooled to rt and stirred overnight. The resulting slurry is filtered, and the filtrate is concentrated in vacuo. The residue is purified on a pad of silica gel, eluting with 2:1:1/heptane:EtOAc:DCM to afford 5-methyl-3-(2-oxo-propyl)-3H-1,3,4-oxadiazol-2-one (7.32 g, 86%) as a crystalline solid. MS: 157 (M+H); 1H NMR (300 MHz, CDCl3) δ 4.46 (s, 2H), 2.27 (s, 3H), 2.21 (s, 3H).

reactant | 5-methyl-3H-1,3,4-oxadiazol-2-one | 55.0 mmol, 5.509 g | CC1=NNC(O1)=O | C3H4N2O2
reactant | NaOMe | C[O-].[Na+]
reactant | chloro-acetone | 54.9 mmol, 4.6 ml | ClCC(C)=O | C3H5ClO
solvent | MeOH | 40 mL | CO | CH4O
catalyst | tetrabutylammonium bromide | 1.08 mmol, 0.358 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CHCl3 | 33 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 58.8 mmol, 12.7 mL | CO | CH4O
product | 5-methyl-3-(2-oxo-propyl)-3H-1,3,4-oxadiazol-2-one | 7.32 g, 86% | CC1=NN(C(O1)=O)CC(C)=O | C6H8N2O3
